US04350634
36.2 g N-(2-cyanoethyl)-N-methyl-3-(3-indolyl)propyl amine are hydrogenated at normal pressure and at room temperature with 20 g Raney-nickel catalyst in 400 ml dioxan and 400 ml of a 10% ammonia solution. N-[3-(3-indolyl)propyl]-N-methyl-1,3-diaminopropane is obtained after working up. M.pt of the neutral fumarate: 180°-181° (with decomposition) after crystallization from ethanol.

reactant | N-(2-cyanoethyl)-N-methyl-3-(3-indolyl)propyl amine | 36.2 g | C(#N)CCN(C)CCCC1=CNC2=CC=CC=C12 | C15H19N3
reactant | ammonia | N | H3N
catalyst | Raney-nickel | 20 g | [Ni] | Ni
solvent | dioxan | 400 ml | O1CCOCC1 | C4H8O2
product | N-[3-(3-indolyl)propyl]-N-methyl-1,3-diaminopropane | N1C=C(C2=CC=CC=C12)CCCN(CCCN)C | C15H23N3
